US04692456
A mixture of N-[3-(N-phenyl-N-pyrid-2-ylamino)-propyl]phthalimide, (3.1 g) and conc. hydrochloric acid (30 ml) were heated under reflux for 21 hr. Phthalic acid was filtered off on cooling and the solvent was evaporated from the filtrate. The residue was dissolved in water and the solution extracted at pH 1 with chloroform. The pH was raised to pH 13 (NaOH) and the solution extracted again with ether. The ether extracts were dried (K2CO3) and the ether was evaporated to give 2-[N-(3-aminopropyl)-N-phenylamino]pyridine, 1.84 g as an oil.

reactant | N-[3-(N-phenyl-N-pyrid-2-ylamino)-propyl]phthalimide | 3.1 g | C1(=CC=CC=C1)N(C1=NC=CC=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H19N3O2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 2-[N-(3-aminopropyl)-N-phenylamino]pyridine | NCCCN(C1=CC=CC=C1)C1=NC=CC=C1 | C14H17N3
